### PR TITLE
[Merged by Bors] - feat: Induction principle for powers

### PR DESCRIPTION
**Pull request by YaelDillies**
https://github.com/leanprover-community/mathlib/pull/18668

* [`algebra.group_power.lemmas`@`05101c3df9d9cfe9430edc205860c79b6d660102`..`e655e4ea5c6d02854696f97494997ba4c31be802`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/group_power/lemmas?range=05101c3df9d9cfe9430edc205860c79b6d660102..e655e4ea5c6d02854696f97494997ba4c31be802)
* [`group_theory.submonoid.membership`@`2ec920d35348cb2d13ac0e1a2ad9df0fdf1a76b4`..`e655e4ea5c6d02854696f97494997ba4c31be802`](https://leanprover-community.github.io/mathlib-port-status/file/group_theory/submonoid/membership?range=2ec920d35348cb2d13ac0e1a2ad9df0fdf1a76b4..e655e4ea5c6d02854696f97494997ba4c31be802)
* [`group_theory.subgroup.zpowers`@`f93c11933efbc3c2f0299e47b8ff83e9b539cbf6`..`e655e4ea5c6d02854696f97494997ba4c31be802`](https://leanprover-community.github.io/mathlib-port-status/file/group_theory/subgroup/zpowers?range=f93c11933efbc3c2f0299e47b8ff83e9b539cbf6..e655e4ea5c6d02854696f97494997ba4c31be802)
* [`group_theory.subgroup.pointwise`@`c10e724be91096453ee3db13862b9fb9a992fef2`..`e655e4ea5c6d02854696f97494997ba4c31be802`](https://leanprover-community.github.io/mathlib-port-status/file/group_theory/subgroup/pointwise?range=c10e724be91096453ee3db13862b9fb9a992fef2..e655e4ea5c6d02854696f97494997ba4c31be802)
* [`ring_theory.int.basic`@`2196ab363eb097c008d4497125e0dde23fb36db2`..`e655e4ea5c6d02854696f97494997ba4c31be802`](https://leanprover-community.github.io/mathlib-port-status/file/ring_theory/int/basic?range=2196ab363eb097c008d4497125e0dde23fb36db2..e655e4ea5c6d02854696f97494997ba4c31be802)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 1]
```diff
@@ -271,6 +271,40 @@ theorem zpow_bit1 (a : G) (n : ℤ) : a ^ bit1 n = a ^ n * a ^ n * a := by
...
+  · rw [add_comm, zpow_add, zpow_one]
+    exact h_mul _ ih
+  · rw [sub_eq_add_neg, add_comm, zpow_add, zpow_neg_one]
+    exact h_inv _ ih
+#align zpow_induction_left zpow_induction_left
+#align zsmul_induction_left zsmul_induction_left
+
+/-- To show a property of all powers of `g` it suffices to show it is closed under multiplication
+by `g` and `g⁻¹` on the right. For subgroups generated by more than one element, see
+`subgroup.closure_induction_right`. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:293]: These names need mathlib4-ifying

File: Mathlib/GroupTheory/Subgroup/Zpowers.lean
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Zpowers.lean:1]: Isn't `coe_zpowers` missing?

**Comment by semorrison** [comment]
Thanks!

bors merge
